US08134004B2
A mixture of 1H-1,2,3-benzotriazole-6-carboxylic acid (Aldrich, 500 mg, 3.1 mmol), N,O-dimethylhydroroxylamine hydrochloride (Aldrich, 299 mg, 3.1 mmol), HBTU (1.5 g, 4.0 mmol) and trimethylamine (1.28 ml, 9.2 mmol) were added and the mixture was stirred for 18 hours at room temperature. Then, evaporation, purification through silica gel column chromatography eluting with DCM/MeOH (10:1) to give N-methoxy-N-methyl-1H-1,2,3-benzotriazole-6-carboxamide (LC-MS (MS (ESI) m/z 205 (M−H)−, 207 (M+H)+). To a THF (50 ml) solution of the product was added 0.96 M hexane solution of ethylmagnesium bromide (15 ml, 14.4 mmol) at 0° C., and the mixture was stirred for 16 hours at room temperature. Then the reaction was quenched with aqueous solution of ammonium chloride and the product was extracted with AcOEt, washed with brine, dried over magnesium sulfate. Then, evaporation in vacuo gave 1-(1H-1,2,3-benzotriazol-6-yl)propan-1-one (LC-MS (MS (ESI) m/z 174 (M−Hy, 176 (M+H)+).

reactant | 1H-1,2,3-benzotriazole-6-carboxylic acid | 3.1 mmol, 500 mg | N1N=NC2=C1C=C(C=C2)C(=O)O | C7H5N3O2
reactant | hydrochloride | 3.1 mmol, 299 mg | Cl | ClH
reactant | HBTU | 4.0 mmol, 1.5 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | trimethylamine | 9.2 mmol, 1.28 ml | CN(C)C | C3H9N
product | N-methoxy-N-methyl-1H-1,2,3-benzotriazole-6-carboxamide | CON(C(=O)C=1C=CC2=C(NN=N2)C1)C | C9H10N4O2
